* =============================================================
* SINGLE-APPLIANCE POWER MONITOR - WATER PUMP
* Base circuit + ACS712-20A + DG408 + MCP39F521
* WATER PUMP: 1HP ~1200W @ 230V 50Hz, PF=0.78 (capacitor-run)
* =============================================================
V1  N003  0  SINE(0 325 50 0 0 0 0)
L1  N003  0     10    Rser=1m
L2  0     N004  0.01  Rser=1m
L4  N003  0     10    Rser=1m
L5  N007  0     0.0047 Rser=1m
L3  N005  0     0.01  Rser=1m
K1  L1 L2 L3 0.99
K2  L4 L5 0.99
D1  N004  N001  1N4007
D2  N006  N004  1N4007
D3  N005  N001  1N4007
D4  N006  N005  1N4007
C1  N001  0     1000u  V=25
C2  0     N006  1000u  V=25
X§U1  0  N002  N001  LT1085-5  ;§pnba GND)OUT)IN
X§U2  N006  NC_03  N008  N008  0  N006  NC_04  LT1175-5
C3  N002  0     100u  V=15
C4  0     N008  100u  V=15
C5  N002  0     0.1u  V=16
C6  0     N008  0.1u  V=16
R1  N002  P001  10k
R2  0     P002  10k
D5  P001  0     1N4007
D6  P002  N008  1N4007

R3  N009  N007  100k
R4  N010  N009  100k
R6  N010  0     10k
X§U3  N010  N011  N002  N008  N011  level2
+ Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0
+ Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg

V_AMMETER  N003  WP_LINE  DC 0

X§U_ACS_WP  WP_NEUT  WP_NEUT  0  0  0  WP_FILT  WP_VIOUT  N002  ACS712_20A
C_WP_FILT  WP_FILT  0  1n

R_VOLTMETER  N003  0  1T

R_WP_main  WP_LINE    WP_MID_M   26.8
L_WP_main  WP_MID_M   WP_NEUT    68.5m

C_WP_run   WP_LINE    WP_MID_A   10u
R_WP_aux   WP_MID_A   WP_MID_B   35
L_WP_aux   WP_MID_B   WP_NEUT    55m

V3  N013  0  15
V5  0  N038  15
V_A0  DA0  0  DC 0
V_A1  DA1  0  DC 0
V_A2  DA2  0  DC 5
X§U8  0  N013  N002  DA0  DA1  DA2  N023  0  0  0  0  WP_VIOUT  0  0  0  N038  DG408
R5  N002  0  10k

X§U9  N023  N024  N002  N008  N024  level2
+ Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0
+ Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R11  N025  N024  10k
R22  0     N025  10k
R12  N028  N034  10k
R13  N034_DIV  N002  1k
R14  0         N034_DIV  1k
X§U_REF  N034_DIV  N034  N002  N008  N034  level2
+ Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0
+ Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R15  N028  N017  10k
R16  N018  N017  100k
R17  N018  0     2k
X§U10  N025  N028  N002  N008  N017  level2
+ Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0
+ Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U11  N018  N026  N002  N008  N026  level2
+ Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0
+ Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg

L6   N026  P003  10u  Rser=1m
R18  N027  P003  1k
C15  N027  0     33n
L7   0     P004  10u  Rser=1m
R19  N031  P004  1k
C16  N031  0     33n
L8   N011  P005  10u  Rser=1m
R20  N032  P005  1k
C17  N032  0     33n
L9   0     P006  10u  Rser=1m
R21  N035  P006  1k
C18  N035  0     33n
X§U12  N027  N031  N032  N035  0  NC_01  NC_02  N029  MCP39F521
V7  N029  0  3.3

.model D1N4007 D(Is=4.35n Rs=0.5 N=1.975 Bv=1000 Cjo=10p)
.model D D

.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.dio
.include C:\Users\Administrator\Documents\LTspice\lib\sub\ACS712.lib
.include C:\Users\Administrator\Documents\LTspice\lib\sub\mcp.lib
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\sub\DG408.sub
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\sub\LT1083.lib
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\sub\LT1175-5.sub
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\sub\UniversalOpAmp2.lib

.option reltol=0.01
.option abstol=1n
.option vntol=1m
.option gminsteps=0
.option srcsteps=100
.option maxstep=500u
.option method=gear
.option plotwinsize=0
.option numdgt=4
.ic V(N002)=5
.ic V(N008)=-5

* =============================================================
* TRANSIENT RUN: 3 minutes (180 s)
* =============================================================
.tran 0 180 0 1m

* =============================================================
* MEASUREMENTS
* Window: 150-180 s (last 30 s, well past all transients)
*
* Direct (ideal-instrument) signals:
*   V(N003)        = mains voltage  (across V_AMMETER+appliance)
*   I(V_AMMETER)   = appliance current
*
* MCP-side signals (filtered inputs to MCP39F521 chip):
*   V(N032)        = MCP voltage channel  (post-divider, post-buffer, post-LC)
*   V(N027)        = MCP current channel  (post-ACS712, post-DG408, post-cond)
*
* Scaling factors (user-supplied):
*   real V  = V(N032) * 983
*   real I  = V(N027) / 0.00196
* =============================================================

* ----- Ideal voltmeter / ammeter (true values) -----
.meas TRAN Vrms        RMS V(N003)                      FROM 150 TO 180
.meas TRAN Irms        RMS I(V_AMMETER)                 FROM 150 TO 180
.meas TRAN Pavg_calc   AVG V(N003)*I(V_AMMETER)         FROM 150 TO 180
.meas TRAN Sapp_calc   PARAM Vrms*Irms

* ----- MCP39F521 raw inputs (RMS at the MCP pins) -----
.meas TRAN Vmcp_rms    RMS V(N032)                      FROM 150 TO 180
.meas TRAN Imcp_rms    RMS V(N027)                      FROM 150 TO 180
.meas TRAN Pmcp_raw    AVG V(N032)*V(N027)              FROM 150 TO 180

* ----- MCP scaled back to real units -----
.meas TRAN Vmcp_scaled PARAM Vmcp_rms*983
.meas TRAN Imcp_scaled PARAM Imcp_rms/0.00196
.meas TRAN Pmcp_scaled PARAM Vmcp_scaled*Imcp_scaled
.meas TRAN Pmcp_true   PARAM Pmcp_raw*983/0.00196

.backanno
.end
